US06326369B1
2-(8-Iodooctyl)-4,5,6,7-tetramethoxyindan
The mixture of 8-(4,5,6,7-tetramethoxyindan-2-yl)octyl methanesulfonate (2.36 g), sodium iodide (2.38 g) in acetone (20 ml) was heated under reflux for 3 hr. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with 5% aqueous sodium sulfite, water, and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo to yield the entitled compound (2.44 g) as an oil.

reactant | 8-(4,5,6,7-tetramethoxyindan-2-yl)octyl methanesulfonate | 2.36 g | CS(=O)(=O)OCCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC | C22H36O7S
reactant | sodium iodide | 2.38 g | [I-].[Na+]
reactant | Water | O | H2O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-(8-Iodooctyl)-4,5,6,7-tetramethoxyindan | 2.44 g | ICCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC | C21H33IO4
